US04451471
The starting material can be produced, for example, in the following manner: 6 g of 4,5-bis-phenylthiazoline-2-thione are dissolved in 50 ml of hexamethylphosphoric acid triamide, the solution is cooled to 5° and, while stirring, sodium hydride (0.89 g of a 50% strength suspension in mineral oil, de-oiled with hexane) is added. The mixture is stirred for 30 minutes at room temperature, 3.57 g of bromoacetic acid methyl ester are slowly added dropwise, the mixture is then stirred for 1 hour at room temperature, poured into 500 ml of ice-water, extracted by shaking twice with 300 ml of ethyl acetate each time, washed with water, dried over magnesium sulphate and concentrated to dryness by evaporation under reduced pressure. The remaining oil is dissolved in toluene and purified by chromatography over 50 g of silica gel. The eluate with toluene/ethyl acetate (95:5) is concentrated by evaporation under reduced pressure. 2-Methoxycarbonylmethyl-4,5-bis-phenylthiazole having a melting point of 65°-67° is obtained.

reactant | 4,5-bis-phenylthiazoline-2-thione | 6 g | C1(=CC=CC=C1)C1=NC(SC1C1=CC=CC=C1)=S | C15H11NS2
reactant | sodium hydride | [H-].[Na+]
reactant | hexane | CCCCCC | C6H14
reactant | bromoacetic acid methyl ester | 3.57 g | COC(CBr)=O | C3H5BrO2
solvent | hexamethylphosphoric acid triamide | 50 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 2-Methoxycarbonylmethyl-4,5-bis-phenylthiazole | COC(=O)CC=1SC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C18H15NO2S
